US07247262B2
Propionic Acid 4-phenylazo-phenyl Ester
4-Phenylazophenol (0.25 g, 1.26 mmoles) was dissolved in ether (5-10 mL) and triethylamine (0.26 mL) was added. Then propanoyl chloride (0.14 g 1.5 mmoles) in ether (1 mL) was added dropwise at room temperature. The mixture was stirred and reaction was rapidly completed. The reaction mixture was washed with water, dilute acid and brine and dried with magnesium sulfate. The solvent was evaporated to give 0.23 g (72%) of product. 1H NMR (CDCl3) δ=1.16 (3H, t, J=7.7), 2.40 (2H, q J=7.7), 7.25 (2H, m), 7.40-7.58 (3H, m), 7.88-8.0 (4H, m) ppm.

reactant | 4-Phenylazophenol | 1.26 mmoles, 0.25 g | C=1C=CC(=CC1)N=NC=2C=CC(=CC2)O | C12H10N2O
reactant | triethylamine | 0.26 mL | C(C)N(CC)CC | C6H15N
reactant | propanoyl chloride | 1.5 mmoles, 0.14 g | C(CC)(=O)Cl | C3H5ClO
solvent | ether | 5-10 mL | CCOCC | C4H10O
solvent | ether | 1 mL | CCOCC | C4H10O
product | Propionic Acid 4-phenylazo-phenyl Ester | 0.23 g, 72% | C1(=CC=CC=C1)N=NC1=CC=C(C=C1)OC(CC)=O | C15H14N2O2
